US07375093B2
A 25 mL vial was charged with a magnetic stir bar and morpholinomethylpolystyrene (PS-NMM, ˜300 mg, 1.92 mmol/g, 0.6 mmol). A solution of N-[4-(3,5-dimethyl-benzoyl)-piperidin-4-yl]-3-methoxy-2-methyl-benzamide (76 mg, 0.2 mmol in 2 mL CH2Cl2) was added, followed by acetyl chloride (16 μL, 0.22 mmol). The mixture was stirred for 2 days, filtered, and fractionated on a 2 g silica gel cartridge, eluting with a 0-100% ethyl acetate in hexanes gradient to provide N-[1-acetyl-4-(3,5-dimethyl-benzoyl)-piperidin-4-yl]-3-methoxy-2-methyl-benzamide. 1H NMR (500 MHz, CDCl3) δ(ppm): 7.6 (s, 2H), 7.15 (m, 2H), 6.87 (d, 2H), 6.7 (d, 1H), 4.17 (dt, 1H), 3.8 (s, 3H), 3.78 (m, 1H), 3.45 (t, 1H), 3.25 (t, 1H), 2.5 (m, 1H), 2.35 (m, 1H), 2.32 (s, 6H), 2.2 (m, 1H), 2.17 (m, 1H), 2.05 (s, 3H), 1.92 (s, 3H).

reactant | NMM | CN1CCOCC1 | C5H11NO
reactant | N-[4-(3,5-dimethyl-benzoyl)-piperidin-4-yl]-3-methoxy-2-methyl-benzamide | 0.2 mmol, 2 mL, 76 mg | CC=1C=C(C(=O)C2(CCNCC2)NC(C2=C(C(=CC=C2)OC)C)=O)C=C(C1)C | C23H28N2O3
reactant | acetyl chloride | 0.22 mmol, 16 μL | C(C)(=O)Cl | C2H3ClO
product | N-[1-acetyl-4-(3,5-dimethyl-benzoyl)-piperidin-4-yl]-3-methoxy-2-methyl-benzamide | C(C)(=O)N1CCC(CC1)(C(C1=CC(=CC(=C1)C)C)=O)NC(C1=C(C(=CC=C1)OC)C)=O | C25H30N2O4
